US05670506
A solution of 3-(8-nonenyl)-1-methylthymine (CT1917) (2.63 g, 9.9 mmol), 4-methylmorpholine-N oxide (1.39 g, 12 mmol), and potassium osmate (IV) dihydrate (7 mg, 2×10-5 mmol) in acetone (20 ml) and water (10 ml) was stirred for 18 hr. After addition of saturated aqueous sodium hydrosulfite solution (10 ml), and stirring for 15 min, the mixture was extracted with 20% methanol-dichloromethane (2×50 ml). The combined organic layers were washed with water (15 ml), with saturated aqueous sodium chloride solution (15 ml), and dried over sodium sulfate. The solvent was evaporated under vacuum to give a solid which was recrystallized (ethanol) to give 3-(8,9-dihydroxynonyl)-1-methylthymine (CT1918) (2.68 g, 91% yield).

reactant | 3-(8-nonenyl)-1-methylthymine | 9.9 mmol, 2.63 g | C(CCCCCCC=C)N1C(N(C=C(C1=O)C)C)=O | C15H24N2O2
reactant | 4-methylmorpholine-N oxide | 12 mmol, 1.39 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium hydrosulfite | 10 ml | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
product | 3-(8,9-dihydroxynonyl)-1-methylthymine | 2.68 g, 91% yield | OC(CCCCCCCN1C(N(C=C(C1=O)C)C)=O)CO | C15H26N2O4
